US06225311B1
In a similar manner as described in Example 211,a mixture of 2.39 g N-methyl-[4-(2-butynyloxy)phenyl]sulfonamide], methyl alpha-bromo(4-chlorophenyl)acetate, and powdered potassium carbonate in DMF was stirred at room temperature for 18 hours. The mixture was combined with water and the precipitate was collected and purified by chromatography on silica gel using hexane-ethyl acetate, 4:1 to give methyl 2-[{[4-(2-butynyloxy)phenyl]sulfonyl}(methyl)amino]-2-(4-chlorophenyl)acetate as a yellow oil which was then used in the subsequent step without further purification.

reactant | N-methyl-[4-(2-butynyloxy)phenyl]sulfonamide | 2.39 g | CNS(=O)(=O)C1=CC=C(C=C1)OCC#CC | C11H13NO3S
reactant | methyl alpha-bromo(4-chlorophenyl)acetate | BrC(C(=O)OC)C1=CC=C(C=C1)Cl | C9H8BrClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 2-[{[4-(2-butynyloxy)phenyl]sulfonyl}(methyl)amino]-2-(4-chlorophenyl)acetate | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)C1=CC=C(C=C1)Cl)C | C20H20ClNO5S
